US08557834B2
N-[(3-{[2-Bromo-5-(methyloxy)phenyl]methyl}-1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycine
A mixture of ethyl N-[(1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycinate (340 mg, 1.0 mmoles), pulv. potassium carbonate (750 mg, 5.35 mmoles) and 2-bromo-5-methoxybenzyl bromide (560 mg, 2.0 mmoles) in dimethylacetamide (6 mL) was vigorously stirred at 100° C. for 3 hours. The mixture was poured into 1 molar hydrochloric acid and extracted with ethyl acetate (×2). The combined organic solutions were washed with 1 molar hydrochloric acid and evaporated. The residue was purified by flash chromatography (10-50% ethyl acetate in hexane), the required fractions evaporated, dissolved in ethanol (5 mL) and 1 molar sodium hydroxide solution (3.0 mL) added. The mixture was stirred overnight, acidified and extracted with ethyl acetate (×2), the combined extracts washed with 1 molar hydrochloric acid, dried and evaporated. Recrystallization from acetic acid-water gave the title compound (150 mg, 29%). 1H NMR (400 MHz, DMSO-d6) δ ppm 13.04 (br. s., 1 H), 10.12 (br. s., 1 H), 7.55 (d, J=8.84 Hz, 1 H), 6.84 (dd, J=8.84, 3.03 Hz, 1 H), 6.50 (d, J=2.78 Hz, 1 H), 4.94 (s, 2 H), 4.65 (t, J=11.75 Hz, 1 H), 4.13 (d, J=5.81 Hz, 2 H), 3.69 (s, 3 H), 2.25 (q, 2 H), 1.79 (d, J=13.14 Hz, 2 H), 1.54-1.74 (m, 3 H), 1.28 (q, J=12.72 Hz, 2 H), 1.10 (q, J=12.88 Hz, 1 H)

reactant | ethyl N-[(1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycinate | 1.0 mmoles, 340 mg | C1(CCCCC1)N1C(NC(C(=C1O)C(=O)NCC(=O)OCC)=O)=O | C15H21N3O6
reactant | potassium carbonate | 5.35 mmoles, 750 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-5-methoxybenzyl bromide | 2.0 mmoles, 560 mg | BrC1=C(CBr)C=C(C=C1)OC | C8H8Br2O
reactant | hydrochloric acid | 1 molar | Cl | ClH
solvent | dimethylacetamide | 6 mL | CC(=O)N(C)C | C4H9NO
product | N-[(3-{[2-Bromo-5-(methyloxy)phenyl]methyl}-1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycine | 150 mg, 29% | BrC1=C(C=C(C=C1)OC)CN1C(N(C(=C(C1=O)C(=O)NCC(=O)O)O)C1CCCCC1)=O | C21H24BrN3O7
